US08981104B2
7,8-Dihydroquinoline-2,5(1H,6H)-dione
With stirring, 113.79 g (1.02 mol) of 3-aminocyclohex-2-en-1-one and 114.37 ml (1.19 mol) of methyl propionate were heated at 105° C. for 1 hour. The dark homogeneous solution formed was then slowly heated further to 170° C. After 20 min (temperature: 135° C.), a viscous material formed, and there was a marked evolution of gas. After a further 15 min (temperature: 160° C.), the reaction material became even more viscous while the evolution of gas subsided. After a total of 42 min, a temperature of 170° C. had been reached. After a further 13 min at this temperature, the reaction material was cooled to room temperature. 200 ml of dichloromethane were then added, the mixture was heated briefly and placed into an ultrasonic bath and the crystalline residue formed was filtered off. This procedure was repeated once more with a further 200 ml of dichloromethane. The crystalline residues obtained in this manner were combined, taken up in 1.6 liters of methanol and then heated with stirring until the solid had dissolved completely. This solution was then slowly cooled to room temperature and then stored in a fridge at about 4° C. for 2 days. The crystalline precipitate was filtered off and dried under reduced pressure. This gave 47.65 g (0.29 mol, 29% of theory) of the target product.

reactant | 3-aminocyclohex-2-en-1-one | 1.02 mol, 113.79 g | NC1=CC(CCC1)=O | C6H9NO
reactant | methyl propionate | 1.19 mol, 114.37 ml | C(CC)(=O)OC | C4H8O2
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | methanol | 1.6 liters | CO | CH4O
product | 7,8-Dihydroquinoline-2,5(1H,6H)-dione | N1C(C=CC=2C(CCCC12)=O)=O | C9H9NO2
